US07875645B2
2-(2-Trifluoromethoxy-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2-trifluoromethoxy-phenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): yellow powder; MS (ISP): 245.0 ((M+H)+.).

reactant | (2-trifluoromethoxy-phenyl)-acetonitrile | FC(OC1=C(C=CC=C1)CC#N)(F)F | C9H6F3NO
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2-Trifluoromethoxy-benzyl)-4,5-dihydro-1H-imidazole | FC(OC1=C(CC=2NCCN2)C=CC=C1)(F)F | C11H11F3N2O
